US09351965B2
Preparation of N-(3-(benzylamino)-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide
A reaction mixture of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.15 mmol, 75 mg), HCl salt of N1-benzyl-1-(2-fluorobenzyl)cyclohexane-1,3-diamine (0.15 mmol, 52 mg), HATU (0.15 mmol, 57 mg) and DIEA (0.1 mL) in DMA (0.5 mL) was stirred at room temperature for overnight. The product, N-(3-(benzylamino)-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was purified by column chromatography on silica gel.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.15 mmol, 75 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | HCl | Cl | ClH
reactant | N1-benzyl-1-(2-fluorobenzyl)cyclohexane-1,3-diamine | 0.15 mmol, 52 mg | C(C1=CC=CC=C1)NC1(CC(CCC1)N)CC1=C(C=CC=C1)F | C20H25FN2
reactant | HATU | 0.15 mmol, 57 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | N-(3-(benzylamino)-3-(2-fluorobenzyl)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | C(C1=CC=CC=C1)NC1(CC(CCC1)NC(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=NC=C1)C)CC1=C(C=CC=C1)F | C53H48FN5O
